US04496735
A mixture of 25 g of 3-bromopyridine, 20 g of 4-hydroxybenzaldehyde, 60 g of potassium carbonate and 150 ml of hexamethylphosphoramide was heated at a temperature of 130° to 135° C. for 11 hours. After cooling, the mixture was poured into water and extracted with diethyl ether. The ether extract was washed with water and extracted with 10% hydrochloric acid. The aqueous layer was washed with diethyl ether, rendered alkaline with sodium hydroxide and extracted with diethyl ether. The ether extract was washed with water and dried over sodium sulfate. The solvent was distilled off and the resulting oily substance was purified by silica gel chromatography (eluted with diethyl ether) to obtain 13.9 g (45% yield) of 4-(3-pyridyloxy)benzaldehyde as a colorless oil having a boiling point of 135°-140° C./2-3 mmHg.

reactant | 3-bromopyridine | 25 g | BrC=1C=NC=CC1 | C5H4BrN
reactant | 4-hydroxybenzaldehyde | 20 g | OC1=CC=C(C=O)C=C1 | C7H6O2
reactant | potassium carbonate | 60 g | C([O-])([O-])=O.[K+].[K+]
reactant | hexamethylphosphoramide | 150 ml | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
solvent | water | O | H2O
product | 4-(3-pyridyloxy)benzaldehyde | 13.9 g, 45% yield | N1=CC(=CC=C1)OC1=CC=C(C=O)C=C1 | C12H9NO2
